US08486953B2
N-(3-(Dimethylamino)propyl)-4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenyl-amino)thieno[2,3-d]pyrimidine-6-carboxamide mono formate salt
HATU (0.054 g, 0.14 mmol) was added into a solution of 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid (0.050 g, 0.13 mmol) and Hünig's base (22 μL, 0.13 mmol) in anhydrous DMF (1.0 mL) at 0° C. After 0.5 hours, 3-dimethylamino-1-propylamine (71 μL, 0.64 mmol) was added and the solution allowed to warm to ambient temperature over night. The reaction was concentrated in vacuo and the residue redissolved in dimethyl sulfoxide. The sample was purified by reverse phase preparative HPLC to yield off-white solid (0.007 g, 11%) as the mono-formate salt.

reactant | HATU | 0.14 mmol, 0.054 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.13 mmol, 0.050 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2)C(=O)O)OC2CCOCC2 | C18H16FN3O4S
reactant | Hünig's base | 0.13 mmol, 22 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-dimethylamino-1-propylamine | 0.64 mmol, 71 μL | CN(CCCN)C | C5H14N2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(3-(Dimethylamino)propyl)-4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenyl-amino)thieno[2,3-d]pyrimidine-6-carboxamide mono formate salt | 0.007 g, 11% | C(=O)O.CN(CCCNC(=O)C1=CC2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CCOCC2)S1)C | InChI=1S/C23H28FN5O3S.CH2O2/c1-29(2)9-3-8-25-22(30)20-13-17-21(26-14-27-23(17)33-20)28-18-5-4-15(24)12-19(18)32-16-6-10-31-11-7-16;2-1-3/h4-5,12-14,16H,3,6-11H2,1-2H3,(H,25,30)(H,26,27,28);1H,(H,2,3)
